US20010053851A1
A solution of 3-cyclopentyl-2-(4-iodo-phenyl)-propionic acid methyl ester (719 mg, 2.01 mmol) and triethylamine (3 mL, 0.015 mmol) in N,N-dimethylformamide (3 mL) was treated with 5-ethynyl-pyrimidine (230 mg, 2.21 mmol). The resulting reaction mixture was degassed with argon for 10 min and then treated with cooper iodide (92 mg, 0.48 mmol) and bis(triphenylphosphine)palladium (II) chloride (169 mg, 0.24 mmol). The reaction was stirred at 25° C. for 18 h and then heated at 67° C. for 2 h. At this time, the reaction was cooled to 25° C. and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-pyrimidin-5-ylethynyl-phenyl)-propionic acid methyl ester (440 mg, 66%) as an orange oil: EI-HRMS m/e calcd for C21H22N2O2(M+) 334.1681, found 334.1681.

reactant | 3-cyclopentyl-2-(4-iodo-phenyl)-propionic acid methyl ester | 2.01 mmol, 719 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)I)=O | C15H19IO2
reactant | 5-ethynyl-pyrimidine | 2.21 mmol, 230 mg | C(#C)C=1C=NC=NC1 | C6H4N2
reactant | iodide | 0.48 mmol, 92 mg | [I-]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.24 mmol, 169 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | triethylamine | 0.015 mmol, 3 mL | C(C)N(CC)CC | C6H15N
product | 3-cyclopentyl-2-(4-pyrimidin-5-ylethynyl-phenyl)-propionic acid methyl ester | 440 mg, 66% | COC(C(CC1CCCC1)C1=CC=C(C=C1)C#CC=1C=NC=NC1)=O | C21H22N2O2
